US06784311B2
5.0 g (43.4 mmol) of methyl 3-aminocrotonate, 70 ml of a 9.3% strength solution of 17 g (43 mmol) of HCl gas in anhydrous methanol and 0.22 g of Pt/C catalyst (Heraeus K0129) were introduced into a 160 ml Parr autoclave. The hydrogenation was carried out for 3 hours at 21-25° C. under 5-10 bar of hydrogen. The catalyst was then filtered off and the solvent was completely removed by distillation on a rotary evaporator. 6.34 g of pure methyl (RS)-3-amino-butyrate hydrochloride were obtained as an oil.

reactant | methyl 3-aminocrotonate | 43.4 mmol, 5.0 g | N\C(=C/C(=O)OC)\C | C5H9NO2
reactant | HCl | 43 mmol, 17 g | Cl | ClH
reactant | hydrogen | [H][H] | H2
solvent | methanol | CO | CH4O
catalyst | Pt/C | 0.22 g | [Pt] | Pt
product | methyl (RS)-3-amino-butyrate hydrochloride | 6.34 g | Cl.NC(CC(=O)OC)C | InChI=1S/C5H11NO2.ClH/c1-4(6)3-5(7)8-2;/h4H,3,6H2,1-2H3;1H
